US08912209B2
Intermediate 9: 2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(3-fluoro-pyridin-4-ylcarbamoyl)-biphenyl-3-carboxylic acid
To a solution of {1-[2-bromo-4-(3-fluoro-pyridin-4-ylcarbamoyl)-phenyl]-ethyl}-carbamicacid tert-butyl ester (2841 μmol) and 3-carboxyphenylboronic acid (1.5 eq.) in a mixture of DME/EtOH/water: 1/1/1 (10 ml) was added Na2CO3 (4 eq) and Pd tetrakis (0.05 eq). The reaction mixture was heated in the microwave at 130° C. for 1.5 hours. The reaction mixture was diluted with water and citric acid (to acidic pH) and extracted with EtOAc. The combined organic layers were dried over MgSO4 and the solvent was removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | {1-[2-bromo-4-(3-fluoro-pyridin-4-ylcarbamoyl)-phenyl]-ethyl}-carbamicacid tert-butyl ester | 2841 μmol | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=C(C=NC=C1)F)=O)Br)=O | C19H21BrFN3O3
reactant | 3-carboxyphenylboronic acid | 1.5 eq. | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | Na2CO3 | 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH water | COCCOC.CCO.O
solvent | water | O | H2O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | Pd tetrakis | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(3-fluoro-pyridin-4-ylcarbamoyl)-biphenyl-3-carboxylic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=C(C=NC=C1)F)=O)C1=CC(=CC=C1)C(=O)O | C26H26FN3O5
